************************************************************
*                                                          *
*        Netlisted Cell:        lv_opamp_stb_tb
*        Netlisted By:          justin                     *
*        Date:                  06/16/16 at 11:26 AM       *
*                                                          *
************************************************************

R2 vfb net_0 500k
R1 vin vfb 500k
I1 vdd bias1 DC 1uA
V1 vdd 0 1V
V3 vref 0 500m
X1 vfb vref 0 vdd 0 vout bias1 lv_opamp
C1 0 vout 500f
V2 vin 0 500m
Vprobe1 probe vout dc 0V ac 1
Vprobe2 probe net_0 0V
Iprobe1 0 probe dc 0 ac 0

.SUBCKT lv_opamp vinn vinp pd vdda vssa vout ibiasn
MN2 diode vinn common vssa nch w=4u l=1u m=2 nf=1
MN5 s1 vinp common vssa nch w=4u l=1u m=2 nf=1
MN4 common ibiasn net_0 net_0 nch w=32u l=400n m=1 nf=8
MP2 s1 diode net_5 net_5 pch w=10u l=0.8u m=5 nf=1
MP1 diode diode net_4 net_4 pch w=10u l=0.8u m=5 nf=1
MP3 net_2 s1 net_7 net_7 pch w=10u l=0.8u m=5 nf=1
MN7 net_2 ibiasn net_1 net_1 nch w=32u l=400n m=2 nf=8
MN1 ibiasn ibiasn net_3 net_3 nch w=4u l=400n m=1 nf=1
MP4 pdb pd vdda vdda pch w=200n l=90n m=1 nf=2
MN8 pdb pd vssa vssa nch w=100n l=90n m=1 nf=1
MN9 ibiasn pd vssa vssa nch w=200n l=90n m=1 nf=1
MP5 diode pdb vdda vdda pch w=200n l=90n m=1 nf=1
MP6 s1 pdb vdda vdda pch w=200n l=90n m=1 nf=1
V1 net_3 vssa 0V
V2 net_0 vssa 0V
V4 net_1 vssa 0V
V3 vout net_2 0V
V7 vdda net_5 0V
V5 vdda net_4 0V
MP7 net_6 net_2 net_6 net_6 pch w=31.5u l=3.5u m=9 nf=9
MP8 net_6 vssa s1 vdda pch w=16u l=0.8u m=1 nf=2
V6 vdda net_7 0V
.ENDS lv_opamp



*** Model library files.
 .inc 'cmos.spi' 



.END
